US06051732
WO 95/09843 describes a multistage process for the preparation of 3-acetoxy-2-methylbenzoic acid. This process starts from 3-methoxybenzoyl chloride. The 3-methoxybenzoyl chloride is reacted with aniline to give 3-methoxy-N-phenylbenzamide. In a second step, the 3-methoxy-N-phenylbenzamide is reacted with 2 equivalents of n-butyllithium and then alkylated using methyl iodide. 3-Methoxy-2-methyl-N-phenylbenzamide is formed here, which is then reacted with aqueous hydrochloric acid and aqueous hydrogen bromide in boiling acetic acid with hydrolysis of the amide group and cleavage of the methoxy group to give 3-hydroxy-2-methylbenzoic acid. The 3-hydroxy-2-methylbenzoic acid must be acylated with acetic anhydride in order to obtain the 3-acetoxy-2-methyl-benzoic acid. The individual reaction steps are described in greater detail in WO 95/09843 under Preparation 9 A, B and C and Example 81.

reactant | 3-acetoxy-2-methylbenzoic acid | C(C)(=O)OC=1C(=C(C(=O)O)C=CC1)C | C10H10O4
reactant | 3-methoxybenzoyl chloride | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | 3-methoxy-N-phenylbenzamide | COC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1 | C14H13NO2
